US04276417
22 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 500 ml. of methylene chloride and 25 ml. of triethylamine. 19.6 g. of 3,3-dimethylacrylic acid anhydride in 400 ml. of methylene chloride are added at room temperature while stirring. The mixture is then stirred at room temperature for 90 minutes. The solution is then washed with water and subsequently with 3-N hydrochloric acid. The organic phase is dried over sodium sulfate and concentrated under reduced pressure. The residue is recrystallized from methylene chloride/diethyl ether, there being obtained pure N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}-3-methylcrotonamide having a melting point of 165°-166° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylacrylic acid anhydride | CC(=CC(=O)OC(C=C(C)C)=O)C | C10H14O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}-3-methylcrotonamide | C(C=C)N(C1=NC=2N(C(=N1)NC(C=C(C)C)=O)OC(N2)=O)CC=C | C15H18N6O3
